US04232036
THF, (20 ml) is placed under N2 treated with 1.54 ml diisopropylamine and cooled to -78° C. A solution of n-butyl lithium 1.97 M in hexane 5.6 ml is added dropwise over 5 min. The reaction mixture is stirred at -78° C. for 10 min and then treated with 8-oxo-2,2,5-trimethyl-3-oxa-1-azabicyclo[4.2.0]octane (1.55 g) in 15 ml THF added dropwise over 5 min. After another 10 min hexamethylphosphoramide 1.97 ml is added. The mixture is stirred another 10 min, then treated with 2 ml of methyl iodide. The reaction mixture is stirred at -78° for 154 min and allowed to warm to 25° C. and stirred for 15 min. The reaction mixture is diluted with EtOAc, washed once with pH 7 phosphate buffer and dried and evaporated. The residue is chromatographed on silica gel using 25% EtOAc/C 6 H6 as eluant to give 8-oxo-2,2,5,7-tetramethyl-3-oxa-1-azabicyclo[4.2.0]octane.

reactant | diisopropylamine | 1.54 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.97 M | C(CCC)[Li]
reactant | 8-oxo-2,2,5-trimethyl-3-oxa-1-azabicyclo[4.2.0]octane | 1.55 g | O=C1CC2C(COC(N12)(C)C)C | C9H15NO2
reactant | methyl iodide | 2 ml | CI | CH3I
solvent | hexane | 5.6 ml | CCCCCC | C6H14
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexamethylphosphoramide | 1.97 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 8-oxo-2,2,5,7-tetramethyl-3-oxa-1-azabicyclo[4.2.0]octane | O=C1C(C2C(COC(N12)(C)C)C)C | C10H17NO2
